US08211908B2
To a solution of 75 mg of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)((3R,4R)-3-hydroxy-1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 3 mL of ethanol, 3.0 mL of a hydrogen chloride/ethanol solution was added at room temperature. The mixture was stirred at the same temperature for 1 hour, and the solvent was distilled off under reduced pressure. Diethyl ether was added to the resultant residue, and the solid was filtered off. To the solid, chloroform and water were added, and the aqueous layer was separated. The aqueous layer was charged with chloroform and adjusted to pH 12 with a 1 mol/L aqueous sodium hydroxide solution. The organic layer was separated, washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 45 mg of 1-(2-((3R,4R)-4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)-3-hydroxypiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one.

reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)((3R,4R)-3-hydroxy-1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 75 mg | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)[C@H]2[C@@H](CN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)O | C29H37N5O7
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | hydrogen chloride ethanol | 3.0 mL | Cl.C(C)O
product | 1-(2-((3R,4R)-4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)-3-hydroxypiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 45 mg | O1CCOC=2C=NC(=CC21)CN[C@H]2[C@@H](CN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)O | C24H29N5O5
